US04593042
Isopropyl Veratryl Cyanide
27.83 g of 50% NaOH solution, 5.84 g (145.95 mmol) of NaOH pellets and veratryl cyanide (8.9 g, 50.24 mmol) were placed in a 100 ml round-bottom flask. 2.05 g (9.02 mmol) of TEBAC was added and the mixture was stirred until homogenous while heating to 50° C. with a heating mantle. Isopropyl bromide (5.5 ml, 58.58 mmol) was added dropwise over 0.5 h at 50° C.±5° to the above mixture which was stirred at 50° C.±5° for 24 hours. The reactin mixture was partitioned between water and toluene and transferred to a separatory funnel. The aqueous layer was drawn off and extracted with ether. The toluene and ether fractions were combined and washed twice with water and dried over Na2SO4. The mixture was filtered and solvent removed by rotary evaporation. The combined fractions, following evaporation and recrystallization from 70 percent methanol/water yielded 6.32 g of the title compound (57% yield).

reactant | NaOH | 27.83 g | [OH-].[Na+]
reactant | NaOH | 145.95 mmol, 5.84 g | [OH-].[Na+]
reactant | veratryl cyanide | 50.24 mmol, 8.9 g | C(C1=CC(OC)=C(OC)C=C1)C#N | C10H11NO2
reactant | Isopropyl bromide | 58.58 mmol, 5.5 ml | C(C)(C)Br | C3H7Br
catalyst | TEBAC | 9.02 mmol, 2.05 g | CC[N+](CC)(CC)CC1=CC=CC=C1.[Cl-]
product | Isopropyl Veratryl Cyanide | 6.32 g, 57% yield | C(C)(C)C(C1=CC(OC)=C(OC)C=C1)C#N | C13H17NO2
